US07381728B2
N-[3-(cis-3,5-Dimethyl-1-piperazinyl)-4-(ethyloxy)phenyl]-4-(2-thienyl)benzenesulfonamide (E310)
A mixture of N-[3-(cis-3,5-dimethyl-1-piperazinyl)-4-(ethyloxy)phenyl]-4-iodobenzenesulfonamide (E94) (206 mg, 0.4 mmol), 2-thienylboronic acid (103 mg, 0.8 mmol), 2M aqueous sodium carbonate solution (1 ml, 2 mmol) and bis(triphenylphosphine)palladium(II) chloride (14 mg, 0.02 mmol) in 1:1 toluene:ethanol (3 ml) was stirred in a microwave reactor (set at high absorbance) at 125° C. for 15 minutes. After cooling to room temperature the reaction mixture was acidified with 5N hydrochloric acid the mixture applied to an SCX ion exchange cartridge (Varian bond-elute) and washed with methanol and 2M ammonia in methanol. The combined basic fractions were concentrated in vacuo and the residue purified by chromatography on silica gel to afford the desired product (E310). MS (ES+) m/e 472 [M+H]+.

reactant | N-[3-(cis-3,5-dimethyl-1-piperazinyl)-4-(ethyloxy)phenyl]-4-iodobenzenesulfonamide | 0.4 mmol, 206 mg | C[C@@H]1CN(C[C@@H](N1)C)C=1C=C(C=CC1OCC)NS(=O)(=O)C1=CC=C(C=C1)I | C20H26IN3O3S
reactant | 2-thienylboronic acid | 0.8 mmol, 103 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 2 mmol, 2M, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.02 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[3-(cis-3,5-Dimethyl-1-piperazinyl)-4-(ethyloxy)phenyl]-4-(2-thienyl)benzenesulfonamide | C[C@@H]1CN(C[C@@H](N1)C)C=1C=C(C=CC1OCC)NS(=O)(=O)C1=CC=C(C=C1)C=1SC=CC1 | C24H29N3O3S2
